US04352803
To a solution of 37% formalin (12 ml) and formic acid (18 ml) was added 6.0 g of 1-ethyl-6-fluoro-1,4-dihydro-4-oxo-7-(1-piperazinyl)-1,8-naphthyridine-3-carboxylic acid, and the mixture was heated at 120°-125° C. for 4 hours with stirring. The mixture was then concentrated to dryness under reduced pressure. The residue was adjusted to pH 8 by addition of aqueous 7% sodium bicarbonate, and extracted with chloroform. The extract was dried and the solvent was evaported. The crystalline residue was recrystallized from a mixture of dichloromethane and ethanol to give 5.0 g of 1-ethyl-6-fluoro-1,4-dihydro-7-(4-methyl-1-piperazinyl)-4-oxo-1,8-naphthyridine-3-carboxylic acid, m.p. 228°-230° C.

reactant | formalin | 12 ml | C=O | CH2O
reactant | 1-ethyl-6-fluoro-1,4-dihydro-4-oxo-7-(1-piperazinyl)-1,8-naphthyridine-3-carboxylic acid | 6.0 g | C(C)N1C=C(C(C2=CC(=C(N=C12)N1CCNCC1)F)=O)C(=O)O | C15H17FN4O3
solvent | formic acid | 18 ml | C(=O)O | CH2O2
product | 1-ethyl-6-fluoro-1,4-dihydro-7-(4-methyl-1-piperazinyl)-4-oxo-1,8-naphthyridine-3-carboxylic acid | 5.0 g | C(C)N1C=C(C(C2=CC(=C(N=C12)N1CCN(CC1)C)F)=O)C(=O)O | C16H19FN4O3
